US06172057B2
To a stirred solution of 2-(4-methoxy-phenylsulfanyl)-propionic acid ethyl ester (2.44 g, 10 mmol), in THF (100 ml) at −4° C., lithium bis(trimethylsilyl)amide (1 M solution, 15 ml, 15 mmol) was added slowly. The orange colored reaction mixture was stirred at room temperature for 15 minutes and then it was cooled to 0° C. at which time it was stirred for an additional hour. The temperature of the mixture was again brought to −40° C. and benzylbromide (1.72 gm, 10 mmol) was added dropwise in THF. The reaction was warmed to room temperature and stirred overnight before it was quenched with ice water, extracted with chloroform and washed with water. The organic layer was dried over MgSO4, filtered and concentrated and chromatographed on a silica-gel column with 10% ethyl acetate:hexane to afford 2-(4-methoxy-phenylsulfanyl)-2-methyl-3-phenyl-propionic acid ethyl ester as a colorless oil. Yield: 860 mg, (26%); MS: 331 (M+H)+.

reactant | 2-(4-methoxy-phenylsulfanyl)-propionic acid ethyl ester | 10 mmol, 2.44 g | C(C)OC(C(C)SC1=CC=C(C=C1)OC)=O | C12H16O3S
reactant | lithium bis(trimethylsilyl)amide | 15 mmol, 1 M, 15 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzylbromide | 10 mmol, 1.72 gm | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(4-methoxy-phenylsulfanyl)-2-methyl-3-phenyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=CC=C1)(C)SC1=CC=C(C=C1)OC)=O | C19H22O3S
